US08030308B2
A solution of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester (100 mg, 0.21 mmol) in acetone (30 mL) and tetrahydrofuran (10 mL) was treated with triethylamine (21 mg, 0.21 mmol) and stirred at room temperature 1 hour. A solution of cyanuric chloride (46 mg, 0.25 mmol) in tetrahydrofurane (2 mL) was added dropwise over a period of 1 hour. The reaction mixture was stirred at room temperature for 2 hours, then 4-amino-benzoic acid ethyl ester (51 mg, 0.31 mmol) and a further aliquot of triethylamine (42 mg, 0.42 mmol) were added. The reaction mixture was stirred at room temperature for 48 hours, the solvents were then removed. The residue was purified by flash chromatography, to yield 4-(5-chloro-2-methoxy-benzenesulfonyl)-6-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester as a light yellow solid, 100 mg (77%), δH (300 MHz; CDCl3) 8.01-8.08 (4H, m), 7.94 (1H, d), 7.73-7.77 (3H, m), 7.48 (1H, dd), 6.82 (1H, d), 4.38 (2H, q), 3.89 (2H, m), 3.64 (2H, m), 3.47 (3H, s), 1.48 (9H, s), 1.40 (3H, t).

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester | 0.21 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(C2=CC(=CC=C12)C(=O)O)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C21H23ClN2O7S
reactant | triethylamine | 0.21 mmol, 21 mg | C(C)N(CC)CC | C6H15N
reactant | cyanuric chloride | 0.25 mmol, 46 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-amino-benzoic acid ethyl ester | 0.31 mmol, 51 mg | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | triethylamine | 0.42 mmol, 42 mg | C(C)N(CC)CC | C6H15N
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 2 mL | O1CCCC1 | C4H8O
product | 4-(5-chloro-2-methoxy-benzenesulfonyl)-6-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(C2=CC(=CC=C12)C(NC1=CC=C(C=C1)C(=O)OCC)=O)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C30H32ClN3O8S
